* Schematics Netlist *



M_M3         $N_0003 $N_0002 $N_0001 0 nmos2  
+ L=3um  
+ W=50um         
M_M4         $N_0001 0 $N_0003 $N_0002 PMOS2  
+ L=3um  
+ W=50um         
V_V3         $N_0002 0 5V
R_R2         $N_0001 0  100  
V_V2         $N_0003 0 4
V_V1         $N_0004 0 5V
M_M2         $N_0003 0 $N_0005 $N_0004 PMOS  
+ L=3um  
+ W=50um         
M_M1         $N_0003 $N_0004 $N_0005 0 nmos  
+ L=3um  
+ W=50um         
R_R1         $N_0005 0  100  
